US07691893B2
Preparation 1: 1-(1,1-dimethylethyl) 3-methyl 4-hydroxy-5,6-dihydro-1,3(2H)-pyridinedicarboxylate (P1)
To a stirred solution of methyl 4-oxo-3-piperidinecarboxylate hydrochloride (14.94 g) in dry DCM (250 mL), at 0° C. and under a nitrogen atmosphere, TEA (43 mL) was added dropwise over 5 minutes. The mixture was stirred at 0° C. for 5 minutes, then allowed to reach room temperature, bis(1,1-dimethylethyl)dicarbonate (18.6 g) was then added in one portion and the solution was left stirring overnight at room temperature under Nitrogen. Saturated aqueous NH4Cl solution (350 ml) was poured into the solution and the mixture was transferred in a separator funnel. The reaction flask was washed with DCM (100 ml) and this volume was poured into the separator funnel. The phases were separated and the watery one was washed with DCM (3×70 mL). The combined organic phases were dried on anhydrous Na2SO4, the solvent removed under reduced pressure, the crude product purified by flash-chromatography (eluting with ethyl acetate/cyclohexane 1:3) to give the title compound (19.8 g).

reactant | methyl 4-oxo-3-piperidinecarboxylate hydrochloride | 14.94 g | Cl.O=C1C(CNCC1)C(=O)OC
reactant | bis(1,1-dimethylethyl)dicarbonate | 18.6 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | NH4Cl | 350 ml | [NH4+].[Cl-]
solvent | DCM | 250 mL | C(Cl)Cl | CH2Cl2
product | 1-(1,1-dimethylethyl) 3-methyl 4-hydroxy-5,6-dihydro-1,3(2H)-pyridinedicarboxylate | 19.8 g | OC1=C(CN(CC1)C(=O)OC(C)(C)C)C(=O)OC | C12H19NO5
